US05834501
5-{4-(Imidazo[1,2-a]pyridin-2-ylmethoxy)benzyl}-thiazolidine-2.4-dione (Compound No. 1-106)
A procedure similar to that described in Example 1 was repeated, except that 3.0 g of 5-{4-(imidazo-[1,2-a]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethyl-thiazolidine-2,4-dione (prepared as described in Preparation 21) were reacted with 30 ml of trifluoroacetic acid for 1 hour. At the end of this time, the reaction mixture was freed from trifluoroacetic acid by distillation under reduced pressure. An aqueous solution of potassium carbonate and ethyl acetate were added to the residue, and the resulting precipitated insoluble material was collected by filtration, dried over anhydrous sodium sulfate and recrystallized from ethanol, to give 0.8 g of the title compound, melting at 197°-202° C.

reactant | 5-{4-(imidazo-[1,2-a]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethyl-thiazolidine-2,4-dione | 3.0 g | N=1C(=CN2C1C=CC=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C37H29N3O3S
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-{4-(Imidazo[1,2-a]pyridin-2-ylmethoxy)benzyl}-thiazolidine-2.4-dione | 0.8 g | N=1C(=CN2C1C=CC=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C18H15N3O3S
